US07575783B2
A first pad bath is filled with a treatment solution containing 150 pounds of THPOH-urea precondensate (Guardex FR-TP, 75% solids from Guardex, Inc. Thomasville, N.C.), 9 pounds of wetting agent (Guardex WT-TPS) and 140 pounds of water. A second pad bath is filled with a treatment solution of identical composition to the first pad bath. Filament rayon warp knit fabric (7.0 ounces per square yard) is padded through the two pad baths in succession attaining 27.4% solids add-on by weight after the second dip-squeeze treatment. The impregnated fabric is exposed to gaseous ammonia by passing through two successive gaseous ammonia chambers. Chamber temperatures were maintained at 85 to 130° F. to assure complete reaction of the THPOH/urea precondensate with ammonia, forming an insoluble THPOH/urea-NH3 polymer within the yarns forming the fabric. The treated fabric is then afterwashed open-width by passing through one or more baths containing peroxide to insolubize the phosphorus-containing flame retardant. Next, the fabric is neutralized. The fabric is then placed on a tenter frame and dried.

reactant | THPOH urea | 150 pounds | OC1OCCCC1.NC(=O)N
reactant | ammonia | N | H3N
solvent | water | 140 pounds | O | H2O
product | THPOH urea NH3 | OC1OCCCC1.NC(=O)N.N | InChI=1S/C5H10O2.CH4N2O.H3N/c6-5-3-1-2-4-7-5;2-1(3)4;/h5-6H,1-4H2;(H4,2,3,4);1H3
